US07642285B2
Synthesis of 3-Oxooctanoic Acid (10b) (SCHEME IV)
A stirred solution of bis-trimethylsilyl malonate (21.6 g, 71.5 mmol) in 100 mL of anhydrous diethyl ether was cooled to −78° C. To this solution, n-butyl lithium (1.6 M in ether, 44.7 mL, 71.5 mmol) was added slowly, keeping the temperature below −60° C. Upon completion of addition, the reaction was allowed to warm to −10° C., at which time hexanoyl chloride (5 mL, 35.75 mmol) was added quickly and allowed to stir for 30 minutes. Next, 150 mL of a cold, aq. 5% sodium bicarbonate solution was added, and the resulting solution was stirred vigorously for 30 minutes. The aq. layer was separated out and acidified with cold 4N sulfuric acid until pH=2. The aq. layer was then extracted 2×50 mL with diethyl ether, dried over MgSO4, and concentrated down in vacuo to afford a white solid. This solid could be further purified by recrystallization from hexane, if necessary. 4.9 g, 87% yield. 1H NMR (300 MHz, CDCl3) δ=3.49 (s, 2H, CH2), 2.59 (t, 2H, J=7.3 Hz, CH2), 1.64 (p, 2H, J=7.4 Hz, CH2), 1.34 (m, 4H, CH2CH2), 0.92 (t, 3H, J=6.9 Hz, CH3); 13C NMR (75 MHz, CDCl3) δ=204.4, 182.8, 87.9, 48.1, 43.4, 31.3, 23.5, 14.1 ppm.

reactant | bis-trimethylsilyl malonate | 71.5 mmol, 21.6 g | C(CC(=O)O[Si](C)(C)C)(=O)O[Si](C)(C)C | C9H20O4Si2
reactant | n-butyl lithium | 71.5 mmol, 1.6 M, 44.7 mL | C(CCC)[Li]
reactant | hexanoyl chloride | 35.75 mmol, 5 mL | C(CCCCC)(=O)Cl | C6H11ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-Oxooctanoic Acid | 87% yield | O=C(CC(=O)O)CCCCC | C8H14O3
